US08202863B2
{4-[(2-Phenyl-pyrimidine-5-carbonyl)-amino]-butyl)-phosphonic acid diethyl ester
Following procedures similar to those of Example 5 but substituting 2-phenyl-pyrimidine-5-carboxylic acid for 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid, and substituting (4-aminobutyl)-phosphonic acid diethyl ester oxalate for aniline, there is prepared 14-[(2-phenyl-pyrimidine-5-carbonyl)-amino]-butyl)-phosphonic acid diethyl ester as a solid. MS: 392 (M+H); 1H NMR (300 MHz, CDCl3): δ 1.31 (t, 6H), 1.77 (m, 6H), 3.48 (q, 2H), 3.97-4.19 (m, 4H), 7.40-7.58 (m, 3H), 7.84 (bs, N—H), 8.40-8.57 (m, 2H), 9.23 (s, 2H); IC50=23.5 nM.

reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)O | C11H7FN2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | phosphonic acid diethyl ester | C(C)OP(OCC)=O | C4H11O3P
product | {4-[(2-Phenyl-pyrimidine-5-carbonyl)-amino]-butyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCCCNC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C19H26N3O4P
